US05001160
To a solution of 204.8 g (0.95 mole) of 1-cyclohexyl-1-hydroxy-1-phenyl-2-propyne in 1500 mL of acetic acid and 150 mL of acetic anhydride was added 305 g (0.95 mole) of mercuric acetate. The reaction mixture was stirred overnight and then poured into a 3-L round bottomed flask equipped with an overhead stirrer and diluted with 1500 mL of methylene chloride. To this was added 86 g (1.18 mole) of acetamide and 1 L of celite. After being stirred overnight, the mixture was filtered through a large pad of celite. The filtrate washed three times with water twice with a 5% aqueous solution of sodium hydroxide, and once with brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. The residue was dissolved in a solution of 76 g (1.14 mole) of potassium hydroxide in 1250 mL of methanol and heated to reflux for 4 hours; the solution was cooled and then poured onto ice. The mixture was extracted four times with methylene chloride. The organic layers were combined, washed four times with water, once with brine, dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. Distillation of the residue bulb-to-bulb, bath temperature 100° C. at 0.1 mm Hg, gave 189 g of 1-cyclohexyl-1-hydroxy-1-phenyl-2-propanone, NMR (CDCl3) 1.1-1.4 (m, 6 H), 1.5-1.9 (m, 4 H), 2.1 (s, 3 H), 2.4 (m, 1 H), 4.5 (s, 1 H), 7.2-7.6 (m, 5 H); IR (neat film) 3450, 2925, 2850, 1710, 1490, 1447, 1360 cm-1.

reactant | 1-cyclohexyl-1-hydroxy-1-phenyl-2-propyne | 0.95 mole, 204.8 g | C1(CCCCC1)C(C#C)(C1=CC=CC=C1)O | C15H18O
reactant | acetamide | 1.18 mole, 86 g | C(C)(=O)N | C2H5NO
reactant | potassium hydroxide | 1.14 mole, 76 g | [OH-].[K+]
solvent | acetic acid | 1500 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 1500 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1250 mL | CO | CH4O
product | 1-cyclohexyl-1-hydroxy-1-phenyl-2-propanone | 189 g | C1(CCCCC1)C(C(C)=O)(C1=CC=CC=C1)O | C15H20O2
